US06858651B2
A well stirred solution of 100 g (774 mmol) of cis-4-Methylamino-cyclohexanol [Schut, Robert N. Analgesic 3-(methylamino)-1,2,3,4-tetrahydrocarbazole from 4-(methylamino)cyclohexanone. Fr. (1968), 3 pp. FR 1515629 19680301] in 775 ml EtOAc was treated with 1.55 l of aqueous 1M NaHCO3 and with 110 ml (774 mmol) of benzyl chloroformate (30 min, Tmax 30° C.). The phases were separated after 2 h at RT. The aqueous phase was extracted (EtOAc), the organic phases were dried (Na2SO4), filtered and evaporated. Purification by column chromatography on silica gel (hexane/EtOAc 2:1) gave 139 g (68%) of cis-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid benzyl ester, MS: 263 (M).

reactant | cis-4-Methylamino-cyclohexanol | 774 mmol, 100 g | CN[C@H]1CC[C@H](CC1)O | C7H15NO
reactant | NaHCO3 | 1M | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 774 mmol, 110 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | EtOAc | 775 ml | CCOC(=O)C | C4H8O2
product | cis-(4-Hydroxy-cyclohexyl)-methyl-carbamic acid benzyl ester | 139 g, 68% | C(C1=CC=CC=C1)OC(N(C)[C@@H]1CC[C@@H](CC1)O)=O | C15H21NO3
